US06492383B1
To a mixture of 4-nitro-fluorobenzene (250 mg, 1.77 mmol) and 4-amino-toluene (195 mL, 1.77 mmol) in 4 mL of water in a sealed tube was added magnesium oxide (86 mg, 2.126mmol). The suspension was stirred at 200° C. for 2 days. The reaction was cooled to ambient temperature and the suspension was diluted with water and filtered to remove insoluble material. The aqueous layer was extracted 3 times with ethyl acetate (50 mL) and the combined organic layers were washed with boronic acid (5%, 50 mL) and water, dried over magnesium sulfate and concentrated in vacuo to provide (4-nitro-phenyl)-p-tolyl-amine (190 mg, 47% yield). ). API MS: 229.20 (M+1).

reactant | 4-nitro-fluorobenzene | 1.77 mmol, 250 mg | [N+](=O)([O-])C1=CC=C(C=C1)F | C6H4FNO2
reactant | 4-amino-toluene | 1.77 mmol, 195 mL | NC1=CC=C(C=C1)C | C7H9N
reactant | magnesium oxide | 2.126mmol, 86 mg | [O-2].[Mg+2]
solvent | water | 4 mL | O | H2O
product | (4-nitro-phenyl)-p-tolyl-amine | 190 mg, 47% yield | [N+](=O)([O-])C1=CC=C(C=C1)NC1=CC=C(C=C1)C | C13H12N2O2
